US08791129B2
[2-Amino-6-(2-{[ethyl-(2-hydroxyethyl)amino]methyl}-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone (“A15”)
114 mg of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4-fluorobenzaldehyde are dissolved in 2 ml of 1,2-dichloroethane and 2 ml of tetrahydrofuran. 57 μl of 2-(ethylamino)ethanol and 28 μl of glacial acetic acid are added, and the mixture is stirred at 60° C. for 6 h. After cooling to 25° C., 216 mg of sodium triacetoxyborohydride are added and stirred at 25° C. for a further 12 h. The mixture is poured into water, extracted three times with dichloromethane, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness and purified by chromatography (reversed phase HPLC).

reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4-fluorobenzaldehyde | 114 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=O)C=CC(=C1)F | C24H17FN4O2
reactant | 2-(ethylamino)ethanol | 57 μl | C(C)NCCO | C4H11NO
reactant | acetic acid | 28 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 216 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | [2-Amino-6-(2-{[ethyl-(2-hydroxyethyl)amino]methyl}-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CN(CCO)CC | C28H28FN5O2
